US05602117
(b) 4-Methoxybenzyl (6R,7R)-1-Oxo-7-phenylacetamido-3-(1,1-dioxotetrahydrothien-2-yl)ceph-3-em-4-carboxylate
4-Methoxybenzyl (6R, 7R)-7-phenylacetamido-3-(1,1-dioxotetrahydrothien-2-yl)ceph-2-em-4-carboxylate (0.973 g) in dichloromethane (20 ml) was cooled in ice-water and treated with 3-chloroperbenzoic acid (0.343 g) and warmed to room temperature for 1 h. The solution was washed with saturated sodium metabisulphite, brine and then dried. Afar removal of solvent, the residue was flash chromatographed on silica gel eluting initially with 80, 90% ethyl acetate-hexane and then ethyl acetate. The first product eluted was the least polar isomer of the title compound, obtained as a pale yellow foam, (0.309 g, 31%); 5H (CDCl3) 2.02-2.39 (4H, m), 2.91-3.03 (1H, m), 3.11-3.20 (1H, m), 3.49 and 3.79 (2H, ABq, J 8.6 Hz), 3.58 and 3.66 (2H, ABq, J 15.9 Hz), 3.81 (3H, s), 4.52 (1H, d, J 4.7 Hz), 5.02 (1H, dd, J 7.3, 11.2 Hz), 5.20 and 5.26 (2H, ABq, J 11.4 Hz), 6.03 (1H, dd, J 4.7, 10.0 hz), 6.69 (1H, d, J 10.0 Hz), 6.90 (2H, d, J 8.7 Hz) and 7.26-7.39 (7H, m). Further elution with 10% ethanol-ethyl acetate provided the second more polar isomer as an off white, amorphous solid, (0.166g, 17%); 5H (CDCl3) 1.90-2.30 (4H, m), 2.88-3.20 (2H, m), 3.06 a 4.13 (2H, ABq, J 18.4 Hz), 3.57 (2H, s), 3.77 (3H, s), 4.43 (1H, d, J 4.1 Hz), 4.61 (1H, t, J 8.3 Hz), 5.18 (3H, m), 5.98 (1H, dd J 4.8, 9.6 Hz), 6.84 (2H, d, J 8.7 Hz) and 7.17-7.36 (7H, m).

reactant | 4-Methoxybenzyl (6R, 7R)-7-phenylacetamido-3-(1,1-dioxotetrahydrothien-2-yl)ceph-2-em-4-carboxylate | 0.973 g | C1(=CC=CC=C1)CC(=O)N[C@H]1[C@@H]2N(C(C(=CS2)C2S(CCC2)(=O)=O)C(=O)OCC2=CC=C(C=C2)OC)C1=O | C27H28N2O7S2
reactant | 3-chloroperbenzoic acid | 0.343 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 4-Methoxybenzyl (6R,7R)-1-Oxo-7-phenylacetamido-3-(1,1-dioxotetrahydrothien-2-yl)ceph-3-em-4-carboxylate | O=S1CC(=C(N2[C@H]1[C@@H](C2=O)NC(CC2=CC=CC=C2)=O)C(=O)OCC2=CC=C(C=C2)OC)C2S(CCC2)(=O)=O | C27H28N2O8S2
